US05877191
(5R,6S,7S)-7-(Dimethylamino)-6-(4-fluorophenyl)-3-(5-cyano-2-isopropoxy-phenyl)-1-oxaspiro[4.4]non-3-ene
(5R,6S,7S)-7-Amino-6-(4-fluorophenyl)-3-(5-cyano-2-isopropoxy-phenyl)-1-oxaspiro[4.4]non-3-ene (17.7 mg, 0.045 mmol) was taken up in acetonitrile (0.72 mL). Water (0.2 mL) and 37% formaldehyde (33 μL) were added followed by a solution of sodium cyanoborohydride (11.2 mg, 0.178 mmol) in acetonitrile (0.2 mL). The reaction mixture was stirred for 1 hour at room temperature with occasional addition of 20% acetic acid/acetonitrile to maintain the pH of the reaction at ~7. The mixture was evaporated, and the residue was partitioned between ethyl acetate and 2.5N NaOH. The organic layer was washed with saturated brine solution and evaporated. Pure title compound (12.3 mg) was obtained by silica gel chromatography eluting with 5-10% methanol/methylene chloride. 400 MHz 1H NMR (CD3OD): δ 1.28 (d, 3H), 1.31 (d, 3H), 2.28 (s, 6H), 3.17 (d, 1H), 3.68 (m, 1H), 4.10 (dd, 1H), 4.65-4.75 (m, 2H), 6.32 (m, 1H), 6.96 (t, 2H), 7.08 (d, 1H), 7.38 (m, 3H), 7.53 (dd, 1H).

reactant | (5R,6S,7S)-7-Amino-6-(4-fluorophenyl)-3-(5-cyano-2-isopropoxy-phenyl)-1-oxaspiro[4.4]non-3-ene | 0.045 mmol, 17.7 mg | N[C@@H]1[C@@H]([C@]2(C=C(CO2)C2=C(C=CC(=C2)C#N)OC(C)C)CC1)C1=CC=C(C=C1)F | C24H25FN2O2
reactant | Water | 0.2 mL | O | H2O
reactant | formaldehyde | 33 μL | C=O | CH2O
reactant | sodium cyanoborohydride | 0.178 mmol, 11.2 mg | C(#N)[BH3-].[Na+]
solvent | acetonitrile | 0.72 mL | C(C)#N | C2H3N
solvent | acetonitrile | 0.2 mL | C(C)#N | C2H3N
solvent | acetic acid acetonitrile | C(C)(=O)O.C(C)#N
product | (5R,6S,7S)-7-(Dimethylamino)-6-(4-fluorophenyl)-3-(5-cyano-2-isopropoxy-phenyl)-1-oxaspiro[4.4]non-3-ene | 12.3 mg | CN([C@@H]1[C@@H]([C@]2(C=C(CO2)C2=C(C=CC(=C2)C#N)OC(C)C)CC1)C1=CC=C(C=C1)F)C | C26H29FN2O2
